Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2]/[C:3]([H:4])=[C:5](\[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[C:9]([H:10])([H:11])[O:12][H:13].[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[H:8],2.31594243625
[C:3](#[C:7][C:9]([H:10])[H:11])[H:8].[H:1][C:2][C:4]([H:5])([H:6])[H:12]>>[H:1][C:2]/[C:3]([C:4]([H:5])[H:6])=[C:7](/[H:8])[C:9]([H:10])([H:11])[H:12],-2.54873008027
[C:1]#[C:2][C:3]([H:4])=[C:5]([H:6])[H:7].[C:8]([H:9])[O:10][H:11]>>[C:1]/[C:2]([C:3]([H:4])=[C:5]([H:6])[H:7])=[C:8](/[H:9])[O:10][H:11],-2.97197818652
[O:1][O:2][C:3]([C:4][H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[H:11]>>[C:4][H:5].[O:1][O:2][C:3][C:6]([H:7])[C:8]([H:9])([H:10])[H:11],5.47987626559
[H:1][O:2][C:3](=[C:4]([H:5])[H:6])/[C:7]([H:8])=[C:9](\[H:10])[O:11][H:12]>>[C:7]([H:8])=[C:9]([H:10])[O:11][H:12].[H:1][O:2][C:3]=[C:4]([H:5])[H:6],5.25738327061
[H:16].[H:1][C:2]([H:3])=[C:4](/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])[H:15]>>[H:1][C:2]([H:3])=[C:4](/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-4.64393657394
[O:1]=[C:2]([H:3])[C:4]([C:5]([H:6])([H:7])[H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:4]([C:5]([H:6])([H:7])[H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[O:1]=[C:2][H:3],3.45302831114
[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[C:13]([H:14])([H:15])[H:16].[H:3],3.89315363579
[C:1].[C:2](\[O:3][H:4])=[C:5](\[H:6])[O:7][H:8]>>[C:1]/[C:2]([O:3][H:4])=[C:5](\[H:6])[O:7][H:8],-5.22935401373
[H:1][C:2]([H:3])=[C:4]([H:5])[H:6].[O:7][C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-0.98920439784
[C:3](\[H:4])(=[C:5]\[O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2]>>[H:1][O:2][C@:3]([H:4])([C:5][O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.0250147471099975
[C:7]([H:8])[C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3][O:4][C:5][H:6]>>[H:1][O:2][C:3][O:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12],-7.617961770930001
[H:1][C:2]/[C:3](=[C:4](\[O:5][H:6])[C:7]#[C:9][H:10])[H:8]>>[H:1][C:2][C:3]1=[C:4]([O:5][H:6])[C:7]([H:8])=[C:9]1[H:10],-0.0142378978499
[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])=[C:9]([H:10])[H:11].[H:8],1.60309577531
[C:1]#[C:2][O:3][C:4]([H:5])=[C:6]([H:8])[H:9].[O:7]>>[C:1]#[C:2][O:3][C:4]([H:5])[C:6]([O:7])([H:8])[H:9],-1.8321340873700005
[H:1][O:2][C:3]([H:4])[O:5][H:6]>>[C:3]([H:4])[O:5][H:6].[H:1][O:2],5.1921620461
[O:1]=[C:2]([H:3])[C:4]1[C:5][C@:6]1([H:7])[O:8][H:9]>>[O:1]=[C:2]([H:3])/[C:4]([C:5])=[C:6](\[H:7])[O:8][H:9],0.926888621942
[H:1][C:2]#[C:3][O:4][C:5]([H:6])=[C:7]=[C:8]([H:9])[H:10]>>[C:7]=[C:8]([H:9])[H:10].[H:1][C:2]#[C:3][O:4][C:5][H:6],5.8964927773
[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8][H:9],5.16415703144
[H:1][O:2][C:3][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][C:12]([H:13])([H:14])[H:15].[H:4]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][C:12]([H:13])([H:14])[H:15],-3.70040745024
[C:9]([H:10])([H:11])[H:12].[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8][C:9]([H:10])([H:11])[H:12],-3.45297249214
[C:1]#[C:2].[C:3][C:4]([H:5])([H:6])[H:7]>>[C:1][C:2]#[C:3][C:4]([H:5])([H:6])[H:7],-7.78977869988
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10]/[O:11][H:12]>>[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:8](\[H:9])[C:10][O:11][H:12].[H:7],2.80972241781
[C:5]([H:6])[O:7][C:8]([H:9])([H:10])[H:11].[H:1][C:2](=[C:3][H:4])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2](/[C:3]([H:4])=[C:5](/[H:6])[O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-4.7525743290300015
[C:8]([H:9])[H:10].[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7][C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-8.26742598
[H:14].[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14],-1.98944727528
[C:5]([H:6])[H:7].[O:1][O:2][C:3](=[C:4])[C:8]([H:9])([H:10])[H:11]>>[O:1][O:2][C:3](=[C:4]=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11],-7.974217338580001
[C:2]([O:3][C:4]([H:5])([H:6])[H:7])=[C:8]([H:9])[H:10].[O:1]>>[O:1]=[C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])[H:10],-6.3412505696300006
[C:4][C:5]([H:6])([H:7])[H:8].[O:1]=[C:2]([O:3])[C:9]([H:10])([H:11])[H:12]>>[O:1]=[C:2]([O:3][C:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-4.410560880319999
[O:1][C:2]([H:3])([H:4])[C:5]#[C:6][O:7][H:8]>>[O:1][C:2]([H:3])([H:4])[C:5]#[C:6].[O:7][H:8],7.40258728475
